US09353101B2
Step A: (RS)-1,1,1-Trifluoro-2-(6-methoxypyridin-3-yl)propan-2-ol
1.0M Tetra-butyl ammonium fluoride in THF (13.23 mL, 13.23 mmol) was added to a THF solution (20 mL) of 1-(6-methoxypyridin-3-yl)ethanone (2 g, 13.23 mmol) and (trifluoromethyl)trimethylsilane (3.76 g, 26.5 mmol) under nitrogen at 0° C. The reaction was warmed to 25° C. and stirred for 18 hours, at which time LCMS showed >95% conversion to product. The reaction was diluted with 50 mL ethyl acetate and poured into 100 mL saturated NH4Cl; the organic layer was washed with 100 mL brine, dried over sodium sulfate, filtered and the filtrate concentrated. Silica gel chromatography using a linear gradient of 0-100% ethyl acetate/hexanes gave the title compound as a white solid. LCMS (M+H)+: 222.0. 1H NMR (500 MHz, CDCl3): δ 8.36 (d, J=1.9 Hz, 1H), 7.81 (dd, J=1.9 and 8.8 Hz, 1H), 6.79 (d, J=8.8 Hz, 1H), 3.97 (s, 3H), 2.80 (s, 1H), 1.80 (s, 3H).

reactant | Tetra-butyl ammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-(6-methoxypyridin-3-yl)ethanone | 13.23 mmol, 2 g | COC1=CC=C(C=N1)C(C)=O | C8H9NO2
reactant | (trifluoromethyl)trimethylsilane | 26.5 mmol, 3.76 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 13.23 mmol, 13.23 mL | C1CCOC1 | C4H8O
product | (RS)-1,1,1-Trifluoro-2-(6-methoxypyridin-3-yl)propan-2-ol | FC(C(C)(O)C=1C=NC(=CC1)OC)(F)F | C9H10F3NO2
